US06908913B2
7-[5-(2-Azidoethylthio)pyridin-3-yl]carbonylimidazo[5,1-b]thiazole (667 mg) was prepared in the same manner as in step a) of Synthesis Example 3, except that 650 g of 7-iodoimidazo[5,1-b]thiazole and 570 mg of 3-(2-azidoethylthio)pyridine-5-aldehyde were used as the starting compounds.

reactant | 7-iodoimidazo[5,1-b]thiazole | 650 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | 3-(2-azidoethylthio)pyridine-5-aldehyde | 570 mg | N(=[N+]=[N-])CCSC=1C=NC=C(C1)C=O | C8H8N4OS
product | 7-[5-(2-Azidoethylthio)pyridin-3-yl]carbonylimidazo[5,1-b]thiazole | 667 mg | N(=[N+]=[N-])CCSC=1C=C(C=NC1)C(=O)C=1N=CN2C1SC=C2 | C13H10N6OS2
